US07425638B2
4-(2-Hydroxyethyl)-piperazine (10 uL, 0.08 mmol) was added to a solution of [4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-5-trifluoromethyl-phenyl)-4,5-dihydro-imidazol-1-yl]-(4-chloromethyl-phenyl)-methanone (20 mg, 0.03 mmol) and diisopropylethylamine (7 uL, 0.04 mmol) in anhydrous dimethylformamide (1.0 mL). The mixture was stirred overnight at 80° C. Evaporation of the solvent and chromatography of the residue over silica gel using 1-5% methanol in methylene chloride gave [4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-5-trifluoromethyl-phenyl)-4,5-dihydro-imidazol-1-yl]-[4-{(4-(2-hydroxyethyl)piperazine-1-yl)methyl}phenyl]methanone, which was dissolved in dilute hydrochloric acid (0.5 N, 1 mL) and lyophilized to give [4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-5-trifluoromethyl-phenyl)-4,5-dihydro-imidazol-1-yl]-[4-{(4-(2-hydroxyethyl)piperazine-1-yl)methyl}phenyl]methanone hydrochloride as a off-white powder (21 mg, 98%). LR-MS (APCI): 726.1 [(M+H)+].

reactant | 4-(2-Hydroxyethyl)-piperazine | 0.08 mmol, 10 uL | OCCN1CCNCC1 | C6H14N2O
reactant | [4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-5-trifluoromethyl-phenyl)-4,5-dihydro-imidazol-1-yl]-(4-chloromethyl-phenyl)-methanone | 0.03 mmol, 20 mg | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)C1=CC=C(C=C1)CCl)C1=C(C=CC(=C1)C(F)(F)F)OCC | C32H24Cl3F3N2O2
reactant | diisopropylethylamine | 0.04 mmol, 7 uL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | [4,5-bis-(4-chloro-phenyl)-2-(2-ethoxy-5-trifluoromethyl-phenyl)-4,5-dihydro-imidazol-1-yl]-[4-{(4-(2-hydroxyethyl)piperazine-1-yl)methyl}phenyl]methanone | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)C1=CC=C(C=C1)CN1CCN(CC1)CCO)C1=C(C=CC(=C1)C(F)(F)F)OCC | C38H37Cl2F3N4O3
